US04855378
About 140 g (1 mol) of allylsuccinic anhydride and 250 ml of diethyl ether which has been dried over metallic sodium are placed under nitrogen in a round-bottomed flask equipped with a stirrer, dropping funnel and reflux condenser, and then mixed with 75 g (0.95 mol) of pyridine. About 57 g of allylamine in 100 ml of diethyl ether which has been dried over metallic sodium are then added dropwise to the flask with stirring over a period of 2 hours. When the addition is complete, the mixture is refluxed for an additional 1 hour. The resultant mixture is washed in a separating funnel with 5 percent aqueous hydrochloric acid until the pH of the aqueous phase is 6.5. The organic phase is dried over magnesium sulfate. After filtering off the drying agent, the solvent is removed at 15 hPa (abs.). About 153 g of N-allyl-allylsuccinimide, which boils at 130° C. at 0.5 hPa, are obtained from the residue by distillation.

reactant | allylsuccinic anhydride | 1 mol, 140 g | C(C=C)C1C(=O)OC(C1)=O | C7H8O3
reactant | sodium | [Na] | Na
reactant | pyridine | 0.95 mol, 75 g | N1=CC=CC=C1 | C5H5N
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
product | N-allyl-allylsuccinimide | 153 g | C(C=C)N1C(C(CC1=O)CC=C)=O | C10H13NO2
